US07622494B2
7-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one was prepared 3-bromoaniline (7.6 g, 44 mmol) and 2-(hydroxymethylene)cyclohexanone (4.3 g, 34 mmol) in a similar manner as described above and recrystallization from methanol to isolate 7-bromo isomer to give 280 mg (1%). of a light brown solid. 1H-NMR (DMSO-d6): δ 8.94 (s, 1H), 7.60 (d, 1H), 7.52 (d, 1H), 7.27-7.25 (m, 1H), 3.01-2.98 (m, 2H), 2.68-2.65 (m, 2H), 2.31-2.24 (m, 2H); MS m/z 263, 265 (M+1).

reactant | 3-bromoaniline | 44 mmol, 7.6 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-(hydroxymethylene)cyclohexanone | 34 mmol, 4.3 g | OC=C1C(CCCC1)=O | C7H10O2
product | 7-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-one | BrC1=CC=C2C=3CCCC(C3NC2=C1)=O | C12H10BrNO
